US08445505B2
A mixture of 2-fluoro-5-methyl-4-(1,4-dioxaspiro[4.5]decan-8-yl)aniline (318.6 mg, 1.2 mmol), 2-chloro-N-(5-methyl-1H-pyrazol-3-yl)-5-(trifluoromethyl)pyrimidin-4-amine (333.0 mg, 1.2 mmol) and HCl (4 N in water, 0.3 mL, 1.2 mmol) in i-PrOH (4.0 mL) was heated at 125° C. in an oil bath overnight. The reaction mixture was concentrated in vacuo. The resulting crude mixture was dissolved in THF (4 mL), MeOH (2 mL) and HCl (4N in water, 0.3 mL, 1.2 mmol), and stirred at room temperature for an additional 2 h. The reaction mixture was concentrated in vacuo, and purified by silica chromatography (0-100% EtOAC in hexanes gradient) to afford 4-(5-fluoro-2-methyl-4-(4-(5-methyl-1H-pyrazol-3-ylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)cyclohexanone; ESMS m/z 463.2 (M+H+).

reactant | 2-fluoro-5-methyl-4-(1,4-dioxaspiro[4.5]decan-8-yl)aniline | 1.2 mmol, 318.6 mg | FC1=C(N)C=C(C(=C1)C1CCC2(OCCO2)CC1)C | C15H20FNO2
reactant | 2-chloro-N-(5-methyl-1H-pyrazol-3-yl)-5-(trifluoromethyl)pyrimidin-4-amine | 1.2 mmol, 333.0 mg | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C)C(F)(F)F | C9H7ClF3N5
reactant | HCl | 1.2 mmol, 4 N, 0.3 mL | Cl | ClH
reactant | MeOH | 2 mL | CO | CH4O
reactant | HCl | 1.2 mmol, 4N, 0.3 mL | Cl | ClH
solvent | i-PrOH | 4.0 mL | CC(C)O | C3H8O
product | 4-(5-fluoro-2-methyl-4-(4-(5-methyl-1H-pyrazol-3-ylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)phenyl)cyclohexanone | FC=1C(=CC(=C(C1)C1CCC(CC1)=O)C)NC1=NC=C(C(=N1)NC1=NNC(=C1)C)C(F)(F)F | C22H22F4N6O
